US04932999
Preparation of sodium 2-chloro-6-[(4,6-dimethoxy-2-pyrimidinyl)thio]benzoate (Compound No. 5)
1.7 g of 2-chloro-6-[(4,6-dimethoxy-2-pyrimidinyl)thio]benzoic acid dissolved in 10 ml of tetrahydrofuran was gradually dropwise added to a suspension of 0.2 g of 60% sodium hydride in 20 ml of tetrahydrofuran. The mixture was reacted under stirring for 30 minutes. After completion of the reaction, the solvent was distilled off under reduced pressure. Isopropyl ether was added to the residue, and a solid was collected by filtration. The solid was dried to obtain 1.8 g of the desired compound as white powder.

reactant | 2-chloro-6-[(4,6-dimethoxy-2-pyrimidinyl)thio]benzoic acid | 1.7 g | ClC1=C(C(=O)O)C(=CC=C1)SC1=NC(=CC(=N1)OC)OC | C13H11ClN2O4S
reactant | sodium hydride | 0.2 g | [H-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | sodium 2-chloro-6-[(4,6-dimethoxy-2-pyrimidinyl)thio]benzoate | 1.8 g | ClC1=C(C(=O)[O-])C(=CC=C1)SC1=NC(=CC(=N1)OC)OC.[Na+] | InChI=1S/C13H11ClN2O4S.Na/c1-19-9-6-10(20-2)16-13(15-9)21-8-5-3-4-7(14)11(8)12(17)18;/h3-6H,1-2H3,(H,17,18);/q;+1/p-1
